US07183306B2
A mixture of ethyl 5-(4-{[(tert-butoxycarbonyl)amino]-methyl}phenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate (500 mg) and sodium methoxide (239 mg) in formamide 5 ml was stirred at 70° C. for 2 hours. The mixture was cooled to ambient temperature and partitioned between AcOEt and brine. The organic layer was washed with saturated aqueous sodium chloride solution, dried over magnesium sulfate, and concentrated in vacuo to give tert-butyl {4-[3-(aminocarbonyl)-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]benzyl}carbamate (512 mg) as an oil.

reactant | ethyl 5-(4-{[(tert-butoxycarbonyl)amino]-methyl}phenyl)-1-(4-methoxyphenyl)-1H-pyrazole-3-carboxylate | 500 mg | C(C)(C)(C)OC(=O)NCC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)OC)C(=O)OCC | C25H29N3O5
reactant | sodium methoxide | 239 mg | C[O-].[Na+]
reactant | formamide | 5 ml | C(=O)N | CH3NO
product | tert-butyl {4-[3-(aminocarbonyl)-1-(4-methoxyphenyl)-1H-pyrazol-5-yl]benzyl}carbamate | 512 mg | NC(=O)C1=NN(C(=C1)C1=CC=C(CNC(OC(C)(C)C)=O)C=C1)C1=CC=C(C=C1)OC | C23H26N4O4
